US07935709B2
Step A: tert-Butyl 4-(4-bromo-2-cyanophenylamino)piperidine-1-carboxylate
5-bromo-2-fluorobenzonitrile (2.00 g, 10.00 mmol) and tert-butyl 4-aminopiperidine-1-carboxylate (5.01 g, 25.0 mmol) were dissolved in a minimal amount of chloroform (3 ml) and heated at 110° C. for 20 h, during which all of the solvent evaporated. The resulting crude golden yellow oil was taken up in CH2Cl2 and washed with saturated aqueous NaHCO3 and brine, and dried (MgSO4). Flash chromatography with 25:10:65 and 35:10:55 EtOAc-CH2Cl2-Hexane of the concentrated organic layers gave the desired product, tert-butyl 4-(4-bromo-2-cyanophenylamino)piperidine-1-carboxylate as a light yellow glassy foam. MS m/e 379.1 (M−H)−.

reactant | 5-bromo-2-fluorobenzonitrile | 10.00 mmol, 2.00 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 25.0 mmol, 5.01 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(4-bromo-2-cyanophenylamino)piperidine-1-carboxylate | BrC1=CC(=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C#N | C17H22BrN3O2
